* 12V to 24V SEPIC buck-boost, 200W, 100kHz
* D=Vout/(Vin+Vout)=24/36=0.667, t_on=6.67u
* Topology: L1 in->sw1, M1 sw1->0, C1 sw1<->sw2, L2 sw2->0, D1 sw2->out
Vin in 0 12
L1 in sw1 100u
M1 sw1 gate 0 0 NMOS W=1 L=1
C1 sw1 sw2 22u
L2 sw2 0 100u
D1 sw2 out DIODE
C2 out 0 470u
Rload out 0 2.88
Rbleed sw1 0 1Meg
Rbleed1 sw2 0 1Meg
Vgate gate 0 PULSE(0 12 0 1n 1n 6.67u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 1n 5m
.end
